US07312330B2
B. 2-Ethoxy-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-(3-(methylsulfonyl)pyridin-2-yl)pyrido[3,4-d]pyrimidin-4-amine
N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylsulfonyl)-7-(3-(methylsulfonyl)pyridin-2-yl)pyrido[3,4-d]pyrimidin-4-amine (150 mg, 0.27 mmol) was suspended in dioxane (5.0 mL) and ethanol (2.0 mL), sodium ethoxide (20 mg, 0.28 mmol) was added and the mixture was stirred at at 80° C. for 2 hrs. Solvent was removed and the residue was purified by flash chromatography over silica gel and then by preparative TLC to obtain the product as a white solid (102 mg).

reactant | N-(4-(Trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-2-(methylsulfonyl)-7-(3-(methylsulfonyl)pyridin-2-yl)pyrido[3,4-d]pyrimidin-4-amine | 0.27 mmol, 150 mg | FC(C1=CC=C(C=C1)NC=1C2=C(N=C(N1)S(=O)(=O)C)CN(CC2)C2=NC=CC=C2S(=O)(=O)C)(F)F | C21H20F3N5O4S2
reactant | sodium ethoxide | 0.28 mmol, 20 mg | [O-]CC.[Na+]
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 2-Ethoxy-N-(4-(trifluoromethyl)phenyl)-5,6,7,8-tetrahydro-7-(3-(methylsulfonyl)pyridin-2-yl)pyrido[3,4-d]pyrimidin-4-amine | 102 mg | C(C)OC=1N=C(C2=C(N1)CN(CC2)C2=NC=CC=C2S(=O)(=O)C)NC2=CC=C(C=C2)C(F)(F)F | C22H22F3N5O3S
